US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4-oxocyclohexyl)phenyl)-pyrrolidine-2,4-dione
The compound was synthesized starting from 1H-benzo[d]imidazol-5-amine (0.803 g, 6.04 mmol), 4-(4-oxocyclohexyl)benzaldehyde (1.5 g, 6.04 mmol), mono-tert-butyl malonate (0.97 g, 6.04 mmol), 1-isocyano-2-methylpropan-2-yl methyl carbonate (0.95 g, 6.04 mmol) and sodium tert.-butoxide (0.60 mg, 5.35 mmol) according to method 5.

reactant | 1H-benzo[d]imidazol-5-amine | 6.04 mmol, 0.803 g | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-(4-oxocyclohexyl)benzaldehyde | 6.04 mmol, 1.5 g | O=C1CCC(CC1)C1=CC=C(C=O)C=C1 | C13H14O2
reactant | mono-tert-butyl malonate | 6.04 mmol, 0.97 g | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | 1-isocyano-2-methylpropan-2-yl methyl carbonate | 6.04 mmol, 0.95 g | C(OC(C[N+]#[C-])(C)C)(OC)=O | C7H11NO3
reactant | sodium tert.-butoxide | 5.35 mmol, 0.60 mg | CC(C)([O-])C.[Na+]
product | 1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4-oxocyclohexyl)phenyl)-pyrrolidine-2,4-dione | N1C=NC2=C1C=CC(=C2)N2C(CC(C2C2=CC=C(C=C2)C2CCC(CC2)=O)=O)=O | C23H21N3O3
